US04709095
A solution of 9.0 g of 3'-aminomethyl-5'-bromo-4'-hydroxypropiophenone and 9.0 g of O-methylhydroxylamine hydrochloride in 80 ml of pyridine and 40 m of ethanol is refluxed with heating for 25 minutes. Activated charcoal is added to the reaction mixture and then filtered off. The filtrate is concentrated under reduced pressure and to the residue are added 200 ml of ice-cold water and 6.0 g of sodium hydrogencarbonate and stirred. The insoluble substance is collected by filtration and washed with water and then dried to give 7.9 g of 3'-aminomethyl-5'-bromo-4'-hydroxypropiophenone O-methyloxime as fine powdery solid, melting at 178°-178.5° C. with decomposition.

reactant | 3'-aminomethyl-5'-bromo-4'-hydroxypropiophenone | 9.0 g | NCC=1C=C(C=C(C1O)Br)C(CC)=O | C10H12BrNO2
reactant | O-methylhydroxylamine hydrochloride | 9.0 g | Cl.CON
reactant | ethanol | C(C)O | C2H6O
reactant | charcoal | C | CH4
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3'-aminomethyl-5'-bromo-4'-hydroxypropiophenone O-methyloxime | 7.9 g | CON=C(CC)C1=CC(=C(C(=C1)Br)O)CN | C11H15BrN2O2
